2173-11-07 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - did extremely well o/n, made good urine, maintained high MAPs
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2173-11-6**] 10:30 PM
   Ceftriaxone - [**2173-11-7**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-11-7**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 92 (84 - 116) bpm
   BP: 94/69(84) {83/56(71) - 99/73(86)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 80 kg
   Height: 73 Inch
             Total In:
                                                                    364 mL
                                                                    224 mL
   PO:
             TF:
   IVF:
                                                                    364 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    530 mL
   Urine:
                                                                  1,350 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -986 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   12.2 g/dL
   109 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.1 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   34.0 %
   8.7 K/uL
        [image002.jpg]
                            [**2173-11-7**]  02:00 AM
   WBC
   8.7
   Hct
   34.0
   Plt
   182
   Cr
   0.5
   TropT
   <0.01
   Glucose
   109
   Other labs: PT / PTT / INR:14.3/85.9/1.2, CK / CKMB /
   Troponin-T:71//<0.01, Ca++:8.1 mg/dL, Mg++:1.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69 y/o M w/ no significant PMH presenting with acute posterior flail
   mitral leaflet.
   .
   # Acute Decompensated Heart Failure secondary to Acute Mitral
   Regurgitation, posterior flail leaflet:  Unclear etiology.  Currently
   HD stable, with IABP and no vasoactive agents.  LVEDP 40mmHg at the
   time of cath.  Etiologies can include papillary muscle rupture [**1-11**]
   ischemia (but patient has clean coronaries, so not likely), Acute
   Endocarditis (most likely secondary to Staph), or chronic myxomatous
   changes.  The patient presented to the OSH with T 100.5F.  Echo at OSH
   reportedly showed no vegetations, however TEE would better assess for
   veggies given suspicion of acute MR.  Acute Staph Endocarditis can lead
   to acute MR given fast degeneration.  For now, will need to cover for
   endocarditis, gram + and gram negatives given recent GI endoscopy
   involving three polypectomies.
   - TEE in AM to evaluate
   - continue diuresis w/o lasix if possible
   - continue vanc/CTX
   - Continue Heparin gtt for IABP thromboembolism prophylaxis
   - Follow MAP > 60; if decreases will plan to start pressors and place
   CVL
   - Contact OSH for BCx
   - f/u CT [**Doctor First Name 91**] recs; may need dental consult pre-op
   .
   .
   # CORONARIES:  No flow limiting CAD on cardiac catheterization.
   Ischemia is not likely etiology of MR.
   - Monitor
   .
   # RHYTHM:  Sinus tachycardia, likely appropriate compensatory response
   to MR to maintain MAP.
   - Monitor on tele
   .
   #  Hyponatremia:  Hypervolemic hyponatremia
   - Will likely response to with diuresis
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin gtt
   -Bowel regimen with
   .
   CODE: Full Code
   .
   COMM:
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2173-11-6**] 08:55 PM
   20 Gauge - [**2173-11-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   I have reviewed admission history and physical and cardiac
   catheterization.  Course consistent with acute mitral valve
   regurgitation with pulmonary edema and hypotension. Has had essentialy
   negative coronary angiogram and IABP placement.
   Physical Examination
   Comfortable.
   JVP not elevated.
   [**2-12**] MR murmur.
   CXR: Pulmonary edema
   Medical Decision Making
   Significantly improved hemodynamics on IABP.  Mild hypotension stable
   off pressors. Oxygenation adequateand continues to diurese.  Plan also
   reviewed with Dr. [**Last Name (STitle) 1038**] regarding timing of cardiac surgery.  Will
   plan TEE today to help exclude vegetation, although endocarditis seems
   unlikely explanation.  If remains hemodynamically and endocarditis
   unlikely will plan for mitral valve repair tomorrow. Continue IABP
   hemodynamic support.
   Critical care: 30 minutes due to unstable hemodynamics requiring IABP
   management.
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2173-11-7**] 12:11 PM ------

2173-11-08 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT [**Doctor First Name 91**] will likely take to OR today
   - TEE today (prelim read): Partial flail of the posterior mitral
   leaflet with severe mitral regurgitation. No obvious valvular
   vegetation, mass or abscess seen.
   - continued diuresis with IV lasix
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2173-11-7**] 07:45 PM
   Ceftriaxone - [**2173-11-8**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2173-11-7**] 11:28 AM
   Fentanyl - [**2173-11-7**] 11:28 AM
   Furosemide (Lasix) - [**2173-11-8**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-11-8**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 92 (81 - 100) bpm
   BP: 93/69(84) {75/50(64) - 110/73(92)} mmHg
   RR: 16 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.8 kg (admission): 80 kg
   Height: 73 Inch
             Total In:
                                                                  1,060 mL
                                                                    120 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    790 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,374 mL
                                                                    555 mL
   Urine:
                                                                  2,374 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,314 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: 7.43/34/107/24/0
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP 6cm.
   CARDIAC: Hyperdynamic, non-displaced PMI located in 5th intercostal
   space, midclavicular line. RR, S1.  Loud S2. IV/VI holosystolic . No
   thrills or lifts. No S3 or S4.
   LUNGS: Diffuse rales in all lung fields.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+.  R groin with IABP in place.
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   206 K/uL
   11.2 g/dL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   22 mg/dL
   104 mEq/L
   139 mEq/L
   33.0 %
   6.1 K/uL
        [image002.jpg]
                            [**2173-11-7**]  02:00 AM
                            [**2173-11-7**]  10:30 AM
                            [**2173-11-7**]  07:03 PM
                            [**2173-11-8**]  04:00 AM
   WBC
   8.7
   6.9
   6.1
   Hct
   34.0
   34.3
   33.0
   Plt
   182
   179
   206
   Cr
   0.5
   0.9
   0.9
   TropT
   <0.01
   TCO2
   23
   Glucose
   109
   108
   Other labs: PT / PTT / INR:13.2/65.0/1.1, CK / CKMB /
   Troponin-T:71//<0.01, ALT / AST:[**11-25**], Alk Phos / T Bili:64/0.8,
   Albumin:3.2 g/dL, LDH:187 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2173-11-6**] 08:55 PM
   20 Gauge - [**2173-11-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: